US08133908B2
N-[((1S,4S,6S)-3-{[6-methyl-3-(2-pyrimidinyl)-2-pyridinyl]carbonyl}-3-azabicyclo[4.1.0]hept-4-yl)methyl]-5-(trifluoromethyl)-2-pyrazinamine (E4)
To a solution of 6-methyl-3-(2-pyrimidinyl)-2-pyridinecarboxylic acid D19 (66.2 mg) in dry DCM (0.5 ml) at room temperature DIPEA (0.038 ml, 0.220 mmol) was added followed by TBTU (38.9 mg, 0.121 mmol). The mixture dissolved completely in about 10 minutes. After 30 minutes N-[(1S,4S,6S)-3-azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyrazinamine D31 (30 mg) dissolved in dry DCM (0.5 ml) was added dropwise. The reaction mixture was left reacting for 16 hours. The reaction mixture was taken up with DCM (10 mls) and NaHCO3 saturated solution (15 mls). The aqueous layer was back extracted with DCM (2×10 mls). The combined organic layers were washed with brine (1×10 mls). The organic was dried Na2SO4, filtered and concentrated to get crude material. The crude product was purified by silica —NH chromatography (Biotage SP—column size 11 g, using EtOAc 100% as eluent). The product recovered was not pure so it was purified again by C18 Phase [Snap 60 g, eluting with water (HCOOH 0.5%): Acetonitrile (HCOOH 0.5%)=95:5 to 5:95]. It was recovered the title compound E4 (25 mg). UPLC: (Acid Final_QC): rt=0.86 minutes, peaks observed: 470 (M+1). C23H22F3N7O requires 469. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.86-8.79 (m, 2 H), 8.51-8.47 (m, 1 H), 8.41-8.37 (m, 1 H), 8.13-7.81 (m, 2 H), 7.52-7.38 (m, 2 H) 4.24-4.12 (m, 1 H) 3.82-3.66 (m, 2 H), 3.64-3.55 (m, 1 H), 2.69 (s, 3 H), 2.68-2.61 (m, 1 H), 2.46-2.39 (m, 1 H), 1.20-1.02 (m, 2 H), 0.99-0.89 (m, 1 H), 0.68-0.59 (m, 1 H), 0.23-0.16 (m, 1 H).

reactant | 6-methyl-3-(2-pyrimidinyl)-2-pyridinecarboxylic acid | CC1=CC=C(C(=N1)C(=O)O)C1=NC=CC=N1 | C11H9N3O2
reactant | DIPEA | 0.220 mmol, 0.038 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.121 mmol, 38.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-[(1S,4S,6S)-3-azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyrazinamine | [C@H]12CN[C@@H](C[C@@H]2C1)CNC1=NC=C(N=C1)C(F)(F)F | C12H15F3N4
reactant | NaHCO3 | 15 mls | C(=O)(O)[O-].[Na+]
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mls | C(Cl)Cl | CH2Cl2
product | N-[((1S,4S,6S)-3-{[6-methyl-3-(2-pyrimidinyl)-2-pyridinyl]carbonyl}-3-azabicyclo[4.1.0]hept-4-yl)methyl]-5-(trifluoromethyl)-2-pyrazinamine | CC1=CC=C(C(=N1)C(=O)N1C[C@H]2C[C@H]2C[C@H]1CNC1=NC=C(N=C1)C(F)(F)F)C1=NC=CC=N1 | C23H22F3N7O
